US07601716B2
N-Biphenyl-4-ylmethyl-4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzamide
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 4-(aminomethyl)biphenyl as in General Procedure 10 to give the title compound. LCMS: m/z=613.00 (M+H+); retention time=1.07 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 4-(aminomethyl)biphenyl | NCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H13N
product | N-Biphenyl-4-ylmethyl-4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzamide | C1(=CC=C(C=C1)CNC(C1=CC=C(C=C1)C1=CC2=C(NCCN2CC2=C(C=CC(=C2)Cl)C(F)(F)F)N=C1)=O)C1=CC=CC=C1 | C35H28ClF3N4O
